US05654320
Preparation of N-[4-(1-piperidinyl)butyl]-1H-indazole-3-carboxamide
To a solution of 1H-indazole-3-carboxylic acid (0.745 g, 4.6 mmol) in 20 mL dimethylformamide, was added 1,1'-carbonyldiimidazole (0.745 g, 4.6 mmol). This mixture was stirred at room temperature for 4 h, and to it was added dropwise a solution of 1-(4-aminobutyl)piperidine (0.718 g, 4.6 mmol) dissolved in 3 mL dimethylformamide. This solution was then stirred at room temperature for 18 h, the volatiles were evaporated and the residue was diluted with water. Extraction with ethyl acetate followed by water and brine washes gave 1.40 g of an oil which was sufficiently pure for use in the next reaction. Mass spectrum, m+ =301.

reactant | 1H-indazole-3-carboxylic acid | 4.6 mmol, 0.745 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 1,1'-carbonyldiimidazole | 4.6 mmol, 0.745 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(4-aminobutyl)piperidine | 4.6 mmol, 0.718 g | NCCCCN1CCCCC1 | C9H20N2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-[4-(1-piperidinyl)butyl]-1H-indazole-3-carboxamide | 1.40 g | N1(CCCCC1)CCCCNC(=O)C1=NNC2=CC=CC=C12 | C17H24N4O
